*****************************************************************
* NXP PSMN5R9-30YL
*
* Polarity N-Channel
* Ratings 30V/6.100000E-003OHMS/78A
*
* Date Created Fri Dec 14 05:58:37 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN5R9-30YL DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00389285547414171 TC=0.00496691267901929,5.51252097421605E-06
RBD 9 4 0.00194535316049668 TC=0.00496691267901929,5.51252097421605E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.1229e-09
RG 1 2 1.97663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -0.5	655.1
+ -0.2	558.7
+ -0.1	534.7
+ 0	491.2
+ 0.1	436.6
+ 0.2	405.8
+ 0.5	308.1
+ 1	245.2
+ 2	200.8
+ 5	168.77
+ 10	136.25
+ 12	130.37
+ 20	116.22
+ 25	110.73



.MODEL MINT NMOS(Vto=2.0854542449234641 Kp=1.251949e+002 Nfs=380000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=5.76785856817002e-13
+ N=1 M=0.56 VJ=0.5 Fc=0.5 Cjo=8.683e-10 Tt=3.23e-08)

.ENDS

